US07585874B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid (furan-2-ylmethyl)-amide
As described for Example 11b, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid (64 mg, 0.2 mmol) was converted, using furfurylamine instead of aminomethylcyclopropane, to the title compound (57 mg, 72%) which was obtained as a yellow foam. MS: m/e=399.1 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid | 0.2 mmol, 64 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)C(=O)O)C1 | C18H13N3O3
reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid (furan-2-ylmethyl)-amide | 57 mg, 72% | O1C(=CC=C1)CNC(=O)C1=CC=2N(C=C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C23H18N4O3
